US09212190B2
To a 250-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was added a solution of ethyl 2-amino-5-[2-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)ethyl]thiophene-3-carboxylate (3.4 g, 9.87 mmol, 1.00 equiv) and formamidine acetate (1.5 g, 14.41 mmol, 1.46 equiv) dissolved in 50 mL of N,N-dimethylformamide. This solution was heated at 100° C. for 12 hrs. The reaction was cooled to room temperature and quenched with water. The resulting mixture was extracted with 3×100 mL of ethyl acetate and the combined organic layers were washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1) to yield 1.76 g (55%) of 2-(2-[4-hydroxythieno[2,3-d]pyrimidin-6-yl]ethyl)-2,3-dihydro-1H-isoindole-1,3-dione as an off-white solid. MS (ES): m/z 326 (M+H)+.

reactant | ethyl 2-amino-5-[2-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)ethyl]thiophene-3-carboxylate | 9.87 mmol, 3.4 g, 1.00 equiv | NC=1SC(=CC1C(=O)OCC)CCN1C(C2=CC=CC=C2C1=O)=O | C17H16N2O4S
reactant | formamidine acetate | 14.41 mmol, 1.5 g, 1.46 equiv | C(C)(=O)O.C(=N)N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-(2-[4-hydroxythieno[2,3-d]pyrimidin-6-yl]ethyl)-2,3-dihydro-1H-isoindole-1,3-dione | 1.76 g, 55% | OC=1C2=C(N=CN1)SC(=C2)CCN2C(C1=CC=CC=C1C2=O)=O | C16H11N3O3S
